US09226922B2
(S)-2-Methoxy-1-phenylethanamine (5.6 g, 37.0 mmol) and potassium cyanate (8.12 g, 100 mmol) were taken up in HCl (1 N, 40 mL, 40.0 mmol) and water (40 mL). The reaction mixture was heated to 100° C. for 3 h. Room temperature was attained, water was added, and the products extracted into EtOAc (×3) followed by 10% MeOH-DCM (×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was triturated with Et2O to give (S)-1-(2-methoxy-1-phenylethyl)urea. MS ESI calc'd. for C10H14N2O2 [M+1]+ 195. found 195.

reactant | (S)-2-Methoxy-1-phenylethanamine | 37.0 mmol, 5.6 g | COC[C@@H](N)C1=CC=CC=C1 | C9H13NO
reactant | potassium cyanate | 100 mmol, 8.12 g | [O-]C#N.[K+]
reactant | HCl | 40.0 mmol, 1 N, 40 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
product | (S)-1-(2-methoxy-1-phenylethyl)urea | COC[C@H](C1=CC=CC=C1)NC(=O)N | C10H14N2O2
